US04855310
In a mixture of 9.66 g of sodium hydroxide, 14.6 ml of water, and 122 ml of methanol was dissolved 36.3 g of 2,5-dimercapto-1,3,4-thiadiazole. After cooling the mixture, a solution of 24.1 ml of ethyl bromoacetate and 24 ml of methanol was added to the mixture below 10° C. The resultant mixture was stirred for 3 hours at room temperature and cooled below 10° C. 43.5 ml of water and 400 ml of 50% methanol were successively added to the reaction mixture, whereby crystals precipitated, and the mixture was allowed to stand overnight at 4° C. The crystals were collected by filtration, washed successively with water and then 50% methanol, and dried to provide 42.5 g of ethyl [(5-mercapto-1,3,4-thiadiazol-2-yl)thio]acetate.

reactant | water | 14.6 ml | O | H2O
reactant | methanol | 122 ml | CO | CH4O
reactant | 2,5-dimercapto-1,3,4-thiadiazole | 36.3 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | ethyl bromoacetate | 24.1 ml | BrCC(=O)OCC | C4H7BrO2
reactant | methanol | 24 ml | CO | CH4O
reactant | water | 43.5 ml | O | H2O
reactant | methanol | 400 ml | CO | CH4O
solvent | sodium hydroxide | 9.66 g | [OH-].[Na+]
product | ethyl [(5-mercapto-1,3,4-thiadiazol-2-yl)thio]acetate | 42.5 g | SC1=NN=C(S1)SCC(=O)OCC | C6H8N2O2S3
